US04001419
A mixture of xanthene-9-spiro-4'-piperidine hydrochloride (1 g.), potassium carbonate (1.2 g.) and γ-chloro-p-fluorobutyrophenone ethylene ketal (1.03 g.) in n-butanol is heated under reflux for 48 hours. The mixture is poured into water, extracted with ether, the ether solution evaporated and the residue warmed with 3N hydrochloric acid for 1 hour to hydrolyse the ketal. The acidic solution is extracted with ethyl acetate, the solvent evaporated and the residue recrystallised from ethyl acetate to give 1'-[3-(p-fluorobenzoyl)propyl]xanthene-9-spiro-4'-piperidine hydrochloride (0.51 g.), m.p. 219°-222° C.

reactant | xanthene-9-spiro-4'-piperidine hydrochloride | 1 g | Cl.N1CCC2(CC1)C1=CC=CC=C1OC=1C=CC=CC12
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | γ-chloro-p-fluorobutyrophenone ethylene ketal | 1.03 g | C1COC(CCCCl)(C2=CC=C(C=C2)F)O1 | C12H14ClFO2
reactant | water | O | H2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 1'-[3-(p-fluorobenzoyl)propyl]xanthene-9-spiro-4'-piperidine hydrochloride | 0.51 g | Cl.FC1=CC=C(C(=O)CCCN2CCC3(CC2)C2=CC=CC=C2OC=2C=CC=CC23)C=C1 | InChI=1S/C27H26FNO2.ClH/c28-21-13-11-20(12-14-21)24(30)8-5-17-29-18-15-27(16-19-29)22-6-1-3-9-25(22)31-26-10-4-2-7-23(26)27;/h1-4,6-7,9-14H,5,8,15-19H2;1H
